US05908846
3-propionyl morphine (Formula I, R1 =C2H5CO, R2 =H)
Propionic anhydride (13.1 ml, 100 mmol) was added while stirring to a mixture of sodium bicarbonate (20 g, 240 mmol) and morphine hydrochloride (3.75 g, 10 mmol) in water (200 ml). After complete addition the mixture was stirred for 90 min and extracted with chloroform (2×100 ml). The combined extracts were dried over anhydrous sodium sulphate and evaporated in vacuo to yield the title compound as a colorless oil in 95% yield. The compound crystallized from petroleum ether at -18° C., m.p. 85-86° C. (Anal.: calc./w C20H23NO4 : C,70.36; H,6.79; N,4.10. Found: C,70.35; H,6.89, N,4.19.). The hydrochloric acid salt of the compound was prepared by adding a methanolic HCl solution to a solution of the base in ether, m.p. 157-158° C. (monohydrate).

reactant | Propionic anhydride | 100 mmol, 13.1 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | sodium bicarbonate | 240 mmol, 20 g | C([O-])(O)=O.[Na+]
reactant | morphine hydrochloride | 10 mmol, 3.75 g | Cl.C1=CC(O)=C2C=3[C@@]45[C@@H](O2)[C@@H](O)C=C[C@H]4[C@@H](CC13)N(C)CC5
solvent | water | 200 ml | O | H2O
product | 3-propionyl morphine | 95% yield | C(CC)(=O)C1(CC=C2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2=C1O5)CCN3C)O)O | C20H25NO4
